US05998433
Synthesis of 4-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-ylcarbonyl)phenylphenylmethanol
To a solution of 0.196 g (0.461 mmol) of N,N-dimethyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride in 10 ml of methanol, 70 mg (1.9 mmol) of sodium borohydride was added under ice-cooling, followed by overnight stirring at room temperature. Aqueous sodium hydroxide was added, followed by 3 extractions with dichloromethane. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure to yield the desired product.

reactant | N,N-dimethyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | 0.461 mmol, 0.196 g | Cl.CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1
reactant | sodium borohydride | 1.9 mmol, 70 mg | [BH4-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 4-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-ylcarbonyl)phenylphenylmethanol | CN(C)CC1=CC2=C(CN(CC2)C(=O)C2=CC=C(C=C2)C(O)C2=CC=CC=C2)O1 | C24H26N2O3
